US06174874B1
Dibenzyl 2,2-di{4-[(di-tert-butoxyphosphoryl)(difluoro)methyl]benzyl}malonate
To a solution of dibenzyl malonate (0.5 g) in DMF (4 mL), was added sequentially NaH (0.12 g, 80% in mineral oil), di(tert-butyl) [[4-(bromomethyl)phenyl](difluoro)methyl]phosphonate (1.60 g). The reaction mixture was stirred at room temperature for 1 h, then quenched with 20 mL of saturated aqueous NH4Cl solution and extracted with 50 mL EtOAc. The extract was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography eluted with 1:1 hexane/EtOAc to give the title compound (0.3 g).

reactant | dibenzyl malonate | 0.5 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | NaH | 0.12 g | [H-].[Na+]
reactant | di(tert-butyl) [[4-(bromomethyl)phenyl](difluoro)methyl]phosphonate | 1.60 g | BrCC1=CC=C(C=C1)C(F)(F)P(OC(C)(C)C)(OC(C)(C)C)=O | C16H24BrF2O3P
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Dibenzyl 2,2-di{4-[(di-tert-butoxyphosphoryl)(difluoro)methyl]benzyl}malonate | 0.3 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(C(=O)OCC2=CC=CC=C2)(C(=O)OCC2=CC=CC=C2)CC2=CC=C(C=C2)C(F)(F)P(=O)(OC(C)(C)C)OC(C)(C)C)C=C1)(F)F | C49H62F4O10P2
